US04550103
A mixture of 32.32 g of 2-[[[1-(phenylmethyl)-3-pyrrolidinyl]methyl]amino]ethanol, 330 ml of methanol and 3 g of 20% palladium on charcoal was shaken in an atmosphere of hydrogen at about 50 psi and at room temperature for 18 hours. The solvents were then removed at reduced pressure. The residue was distilled under vacuum, bp 129°-131° C. (1.5 mm) to give 11.43 g of 2-[(3-pyrrolidinylmethyl)amino]ethanol.

reactant | 2-[[[1-(phenylmethyl)-3-pyrrolidinyl]methyl]amino]ethanol | 32.32 g | C1(=CC=CC=C1)CN1CC(CC1)CNCCO | C14H22N2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 3 g | [Pd] | Pd
solvent | methanol | 330 ml | CO | CH4O
product | 2-[(3-pyrrolidinylmethyl)amino]ethanol | 11.43 g | N1CC(CC1)CNCCO | C7H16N2O
